US05883247
Under an argon atmosphere to a stirred suspension of 25.6 g (E)-(6R,7R)-7-Amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (73.3 mmol) in 120 ml dimethylformamide was added 20 ml triethylamine (143 mmol) at 10° C. After 15 min, the solution was cooled to 0° C. and 28.5 g (Z)-(2-aminothiazol-4-yl)-acetoxyiminoacetic acid diethoxy thiophosphonyl ester (74.8 mmol) was added in portions over 5 min. Stirring was continued at 0° C. with exclusion of light for 5 h. The reaction was followed by HPLC. The brown reaction mixture was poured at once into 550 ml water of 10° C. Over 30 min, 50 ml HCl 1N was added. The pH dropped from 4.6 to 3.2 and the product precipitated from the reaction mixture. Stirring was continued for 1 h at 0° C. The suspension was filtered. The product was washed with ice-cold water, re-suspended in water, stirred for 20 min at room temperature, filtered and again washed with water. (6R,7R)-7-[(Z)-2-(2-aminothiazol-4-yl)-2-acetoxyimino-acetylamino)]-3-[(E)-1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid was obtained as a beige, wet solid. The product was used immediately and without drying for the next step.

reactant | (E)-(6R,7R)-7-Amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 73.3 mmol, 25.6 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C16H19N3O4S
reactant | triethylamine | 143 mmol, 20 ml | C(C)N(CC)CC | C6H15N
reactant | water | 550 ml | O | H2O
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 3-[(E)-1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C1(CC1)CN1C(\C(\CC1)=C\C1=C(N2C(CC2SC1)=O)C(=O)O)=O | C16H18N2O4S
